US05274143
To a solution of 20 g (90 mmol) 2-bromooctanoic acid in 100 mL toluene was added 13.2 mL (180 mmol) thionyl chloride. The solution was heated at reflux under nitrogen for 3 hours. The excess thionyl chloride and toluene were distilled at atmospheric pressure under N2. The yellow residue was purified by kugelrohr distillation (bp=60°-65° C./0.1 mm Hg) and 13.8 g (64%) of the 2-bromooctanoyl chloride as a colorless oil was isolated. 1H NMR (CDCl3)δ0.85-0.95 (m,3H,CH3), 1.24-1.57 (m,8H,CH2), 1.98-2.22 (m,2H,CH2CBr) 4.51 (t, J=7.10 Hz, 1H, CHBr); IR (CHCl3) 1788 (C=O) cm-1 ; microanalysis: calcd. for C8H14BrClO-39.78% C,5.84% H, 33.08% Br, 14.68% Cl, found-39.55% C,5.91% H, 33.17% Br, 14.84% Cl.

reactant | 2-bromooctanoic acid | 90 mmol, 20 g | BrC(C(=O)O)CCCCCC | C8H15BrO2
reactant | thionyl chloride | 180 mmol, 13.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromooctanoyl chloride | 13.8 g, 64% | BrC(C(=O)Cl)CCCCCC | C8H14BrClO
